US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1633)
(E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene}piperidine (1.08 g) was treated with hydrogen chloride in ethanol (20 ml) in a similar manner to that described in Example 133. The reaction mixture was concentrated in vacuo, and the residue was purified by chromatography on silica gel using a mixture of ethanol and dichloromethane (2:98 to 10:90) as the eluent to afford the title compound as a pale yellow amorphous solid (976 mg, yield: 91%).

reactant | (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene}piperidine | 1.08 g | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=NN(N1)CCCC(=O)OCC | C26H32FN5O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 976 mg, yield: 91% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(N1)CCCC(=O)OCC)=O | InChI=1S/C24H30FN5O3S.ClH/c1-2-33-22(31)8-5-12-30-27-21(26-28-30)14-17-15-29(13-11-20(17)34)23(24(32)16-9-10-16)18-6-3-4-7-19(18)25;/h3-4,6-7,14,16,20,23,34H,2,5,8-13,15H2,1H3;1H/b17-14+;
